US04288443
(iii) 5-[[2-(Amino)ethyl]thio]methyl-N-methyl-3-phenyl-2-furancarboxamide, hydrochloride
Gaseous methylamine was passed into a solution of 5-[[2-(1,3-dioxo-2H-isoindol-2-yl)ethyl]thio]methyl-3-phenyl-2-furancarboxylic acid, methyl ester (4 g) and sodium methoxide (0.01 g) in dry methanol (50 ml). After 4 hours 2 M hydrochloric acid (100 ml) was added and the solution was extracted with diethyl ether (200 ml). The aqueous fraction was basified with 5 M sodium hydroxide (40 ml) and extracted with chloroform (200 ml). The chloroform extract was mixed with 2 M hydrochloric acid (100 ml) and the resulting solid was collected by filtration affording the title compound (1.6 g) as yellow needles. m.p. 189°-190°.

reactant | methylamine | CN | CH5N
reactant | 5-[[2-(1,3-dioxo-2H-isoindol-2-yl)ethyl]thio]methyl-3-phenyl-2-furancarboxylic acid, methyl ester | 4 g | O=C1N(C(C2=CC=CC=C12)=O)CCSCC1=CC(=C(O1)C(=O)OC)C1=CC=CC=C1 | C23H19NO5S
reactant | sodium methoxide | 0.01 g | C[O-].[Na+]
reactant | hydrochloric acid | 2 M, 100 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-[[2-(Amino)ethyl]thio]methyl-N-methyl-3-phenyl-2-furancarboxamide, hydrochloride | 1.6 g | Cl.NCCSCC1=CC(=C(O1)C(=O)NC)C1=CC=CC=C1 | InChI=1S/C15H18N2O2S.ClH/c1-17-15(18)14-13(11-5-3-2-4-6-11)9-12(19-14)10-20-8-7-16;/h2-6,9H,7-8,10,16H2,1H3,(H,17,18);1H
